US05541224
The 4-(trifluoromethylsulfonyloxy)-1-nitrobenzene (27.1 grams; 0.10 mole) in 300 ml of ethanol was added dropwise to 94.8 grams of stannous chloride (0.5 mol; 5 equivalents) in 525 ml of concentrated HCl, at room temperature. The rate of addition was controlled to prevent the temperature of the reaction mixture from rising. The reaction mixture was stirred for 3 hours, 10N NaOH added until the pH was ~12, and extracted into ether. The ether extract was washed with water, dried over magnesium sulfate, and the ether evaporated to yield the desired 4-(trifluoromethylsulfonyloxy)aniline as a yellowish brown oil. Its identity was confirmed by NMR, MS, and elemental analysis, the last of which showed:

reactant | 4-(trifluoromethylsulfonyloxy)-1-nitrobenzene | 0.10 mole, 27.1 grams | FC(S(=O)(=O)OC1=CC=C(C=C1)[N+](=O)[O-])(F)F | C7H4F3NO5S
reactant | NaOH | 10N | [OH-].[Na+]
solvent | ethanol | 300 ml | C(C)O | C2H6O
solvent | HCl | 525 ml | Cl | ClH
product | 4-(trifluoromethylsulfonyloxy)aniline | FC(S(=O)(=O)OC1=CC=C(N)C=C1)(F)F | C7H6F3NO3S
